US05108500
A. Copper dioctyl sulfosuccinate
Into a fritted column was added: 12 g (12 meq H+) ion exchange resin (Amberlite® IR 120 brand). Resin beads were washed with 100 ml deionized water. Into a 50 ml beaker were added: 7 g (10 meq) sodium dioctyl sulfosuccinate (Triton® GR-5M brand), 7 g water, and 7 g isopropanol. The surfactant solution was run through the column and collected in a 100 ml beaker containing: 0.5 g (10 meq Cu) copper hydroxide and 20 g water. The effluent/copper hydroxide mixture was swirl mixed while collecting the effluent. A 10 g water rinse of the column was added to the copper mixture. Extraction of the beaker's contents was done with 2×25 ml toluene, the toluene solubles were dried with molecular sieve, rotary evaporator stripping removed the toluene, and the resulting solids were vacuum dried overnight at room temperature.

reactant | sodium dioctyl sulfosuccinate | 5M, 7 g, 10 meq | S(=O)(=O)(O)C(C(=O)OCCCCCCCC)CC(=O)OCCCCCCCC.[Na]
reactant | isopropanol | 7 g | C(C)(C)O | C3H8O
reactant | copper hydroxide | 0.5 g, 10 meq | [OH-].[Cu+2].[OH-]
solvent | water | 20 g | O | H2O
solvent | water | 7 g | O | H2O
product | Copper dioctyl sulfosuccinate | S(=O)(=O)(O)C(C(=O)OCCCCCCCC)CC(=O)OCCCCCCCC.[Cu] | InChI=1S/C20H38O7S.Cu/c1-3-5-7-9-11-13-15-26-19(21)17-18(28(23,24)25)20(22)27-16-14-12-10-8-6-4-2;/h18H,3-17H2,1-2H3,(H,23,24,25);
